US04077982
Using the method of Example 5g, except no solvent was necessary, 24.8 g 2-fluorobenzaldehyde and 18.4 g glycerol were reacted to form 2-(2-fluorophenyl)-5-hydroxy-1,3-dioxane. The product was cooled and dissolved in 100 ml ether. The ether solution was washed with an aqueous potassium carbonate solution, dried with magnesium sulfate, filtered and evaporated under reduced pressure. The resultant oil was distilled, and that fraction distilling at 140°-145° C/10-5 mm contained 2-(2-fluorophenyl)-5-hydroxy-1,3-dioxane.

reactant | 2-fluorobenzaldehyde | 24.8 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | glycerol | 18.4 g | OCC(O)CO | C3H8O3
product | 2-(2-fluorophenyl)-5-hydroxy-1,3-dioxane | FC1=C(C=CC=C1)C1OCC(CO1)O | C10H11FO3
